US08809336B2
3A. [1-(9H-Purin-6-yl)piperidin-4-yl]carbamic acid tert-butyl ester
To a mixture of 6-chloropurine (0.050 g, 0.323 mmol) and piperidin-4-yl carbamic acid tert-butyl ester (0.129 g, 0.646 mmol) in n-butanol (3.2 ml) was added triethylamine (0.225 ml, 1.617 mmol). After heating at 100° C. for 20 hours, solvent was removed and the resulting solid triturated with a DCM/methanol mix (3 ml/5 ml). Filtration gave the desired product as a white solid (0.080 g, 78%). LC/MS: (LCT) Rt 5.37 [M+H]+ 319.

reactant | 6-chloropurine | 0.323 mmol, 0.050 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | piperidin-4-yl carbamic acid tert-butyl ester | 0.646 mmol, 0.129 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | triethylamine | 1.617 mmol, 0.225 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 3.2 ml | C(CCC)O | C4H10O
product | [1-(9H-Purin-6-yl)piperidin-4-yl]carbamic acid tert-butyl ester | 0.080 g, 78% | C(C)(C)(C)OC(NC1CCN(CC1)C1=C2N=CNC2=NC=N1)=O | C15H22N6O2
